### PR TITLE
feat: establish the Poisson-Jensen formula

### PR DESCRIPTION
**Pull request by kebekus**
Establish the classic Poisson-Jensen formula of complex analysis, which generalizes the Jensen formula.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), formalizing Value Distribution Theory for meromorphic functions on the complex plane. Claude Code was used to create this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kebekus** [comment]
As ever so often, CI fails in the "Post-Build Step". I suspect that the reasons have nothing to do with this PR.

File: Mathlib/Analysis/Complex/JensenFormula.lean [hunk 1]
```diff
@@ -293,6 +297,128 @@ lemma countingFunction_finsum_eq_finsum_add {c : ℂ} {R : ℝ} {D : ℂ → ℤ
...
+      apply circleIntegrable_log_norm (h₁h.meromorphicOn.mono_set _)
+      simpa [abs_of_pos hR] using sphere_subset_closedBall
+    fun_prop
+  have ρ₂ : ∀ i ∈ h₂f.toFinset, CircleIntegrable ((divisor f (sphere 0 R)) i •
+      Complex.re ∘ herglotzRieszKernel 0 w • (log ‖· - i‖)) 0 R :=
+    fun i _ ↦ by fun_prop
+  -- The Poisson–Jensen identity for the circle average of `log ‖f‖`, obtained by replacing `f` with
+  -- its canonical decomposition and integrating term by term.
+  have key : circleAverage (Complex.re ∘ herglotzRieszKernel 0 w • (log ‖f ·‖)) 0 R =
+      ∑ᶠ x, (divisor f (sphere 0 R)) x * log ‖w - x‖ + log ‖h w‖ :=
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/JensenFormula.lean]: this theorem has a massive proof, maybe you can extract some useful lemmas from the proof?
like this `key` for example (which alone is already long enough)?

Comment (kebekus) [reply Mathlib/Analysis/Complex/JensenFormula.lean]: @themathqueen Thanks for the comment. I subdivided the proof into smaller steps, as requested.
